US07741341B2
3-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-3H-thieno[3,4-d]imidazole-2,6-dicarboxylic acid
6-[(2-hydroxy-ethyl)-amide]2-[(1-isopropyl-piperidin-4-yl)-amide] was prepared by a procedure according to example 22 starting from 96 mg (0.18 mmol) 3-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-cyclopropyl-piperidin-4-ylcarbamoyl)-3H-thieno[3,4-d]imidazole-6-carboxylic acid and 11.0 μl (0.18 mmol) 2-amino-ethanol. The title compound was obtained as its formiate in form of a white amorphous solid.

reactant | 3-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-cyclopropyl-piperidin-4-ylcarbamoyl)-3H-thieno[3,4-d]imidazole-6-carboxylic acid | 0.18 mmol, 96 mg | ClC1=CC=C(S1)C1=CC(=NO1)CN1C(=NC=2C1=CSC2C(=O)O)C(NC2CCN(CC2)C2CC2)=O | C23H22ClN5O4S2
reactant | 2-amino-ethanol | 0.18 mmol, 11.0 μl | NCCO | C2H7NO
product | 3-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-3H-thieno[3,4-d]imidazole-2,6-dicarboxylic acid | ClC1=CC=C(S1)C1=CC(=NO1)CN1C(=NC=2C1=CSC2C(=O)O)C(=O)O | C15H8ClN3O5S2
